US07238701B2
Step 5. Preparation of 4-(3Chloro-4-fluoro-phenylamino)-5,8-dihydro-6H-benzo[4,5]thieno[2,3-d]pyrimidin-7-one
To a stirring acetic acid/water solution (4:1, 300 mL) was added N-(3-chloro-4-fluorophenyl)-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine (5.5 g, 14 mmol), and the contents heated at 80° C. for 12 h. The dark colored mixture was cooled to rt, and the solvent removed under reduced pressure. The crude residue was suspended in 1N NaHCO3 (100 mL), stirred for 10 min., and filtered. The filtered solid was triturated with diethyl ether (100 mL) to afford the desired product (4.8 g, 98%) as a dark yellow solid. 1H-NMR (DMSO-d6) δ 8.53 (s, 1H), 8.46 (s, 1H), 7.87 (dd, 1H), 7.60 (m, 1H), 7.40 (t, 1H), 3.73 (s, 2H), 3.43 (t, 2H), 2.64 (s, 2H); LCMS RT=3.01 min; [M+H]+=348.2.

reactant | N-(3-chloro-4-fluorophenyl)-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine | 14 mmol, 5.5 g | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | C18H15ClFN3O2S
solvent | acetic acid water | 300 mL | C(C)(=O)O.O
product | 4-(3Chloro-4-fluoro-phenylamino)-5,8-dihydro-6H-benzo[4,5]thieno[2,3-d]pyrimidin-7-one | 4.8 g, 98% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)SC1=C2CCC(C1)=O | C16H11ClFN3OS
